US04994486
Step 5: [1R,8S,9aR]-5-Methoxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene-1-carboxylic acid
Crude [1R,8S,9aR] 1-carbomethoxy-5-methoxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene (0.8 g., 2.1 mmol), from Step 4, is dissolved in 100 mL of methanol and 8 mL of 1N aqueous sodium hydroxide is added. After stirring for 3 days at ambient temperature, the methanol is removed under reduced pressure. The residue is partitioned between 50 mL of diethyl ether and 75 mL of water. The aqueous phase is acidified to pH 2 with 6M aqueous hydrochloric acid solution and the product is extracted with 3×25 mL of 1:1 ethyl acetate:diethyl ether. The combined organic layers are washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give the title compound.

reactant | [1R,8S,9aR] 1-carbomethoxy-5-methoxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene | 2.1 mmol, 0.8 g | C(=O)(OC)[C@@H]1CCC2=CC(=CC=3C[C@H](C[C@H]1C23)C2=CC=CC=C2)OC | C22H24O3
reactant | sodium hydroxide | 1N, 8 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | [1R,8S,9aR]-5-Methoxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene-1-carboxylic acid | COC=1C=C2CC[C@H]([C@H]3C[C@@H](CC(C1)=C32)C3=CC=CC=C3)C(=O)O | C21H22O3
